US06468998B1
(S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide (1.0 g) and 2-(4-cyanophenyl)ethyl p-toluenesulfonate (1.2 g) were dissolved in acetonitrile, and potassium carbonate was added thereto. The mixture was stirred under heating at 70° C. for 5 hours. After the completion of the reaction, the solvent was evaporated under reduced pressure. Ethyl acetate was added to the obtained residue and the mixture was washed with saturated brine. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (chloroform:methanol=30:1). The obtained eluate was concentrated and IPE was added to the obtained residue. The precipitated crystals were collected by filtration to give (S)-N-(1-(2-(4-cyanophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide (1.1 g), melting point 104-105° C.

reactant | (S)-N-(Pyrrolidin-3-yl)-1-adamantanecarboxamide | 1.0 g | N1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C15H24N2O
reactant | 2-(4-cyanophenyl)ethyl p-toluenesulfonate | 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1=CC=C(C=C1)C#N)C | C16H15NO3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | (S)-N-(1-(2-(4-cyanophenyl)ethyl)pyrrolidin-3-yl)-1-adamantanecarboxamide | 1.1 g | C(#N)C1=CC=C(C=C1)CCN1C[C@H](CC1)NC(=O)C12CC3CC(CC(C1)C3)C2 | C24H31N3O
